### PR TITLE
feat: add CommRing (BitVec w)

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR adds a `CommRing` instance for `BitVec w`. The theorems `ofFin_ofNat`, `toFin_inj`, `toFin_zero`, `toFin_one`, and `ofInt_negSucc_eq_not_ofNat` have been merged to lean and will be available in the next lean update: https://github.com/leanprover/lean4/pull/5680.

Contributed-by: Alex Keizer <alex@keizer.dev>

### CODE REVIEW

File: Mathlib/Data/BitVec.lean [hunk 1]
```diff
@@ -58,4 +59,61 @@ instance : CommSemiring (BitVec w) :=
...
+  toFin_injective.eq_iff
+
+@[simp] lemma ofFin_natCast (n : ℕ) : ofFin (n : Fin (2^w)) = n := by
+  simp only [Nat.cast, NatCast.natCast, OfNat.ofNat, BitVec.ofNat, Nat.and_pow_two_sub_one_eq_mod]
+  rfl
+
+lemma toFin_natCast (n : ℕ) : toFin (n : BitVec w) = n := by
+  rw [toFin_inj]; simp only [ofFin_natCast]
+
+theorem ofFin_intCast (z : ℤ) : ofFin (z : Fin (2^w)) = Int.cast z := by
```
Comment (digama0) [inline Mathlib/Data/BitVec.lean:93]:
```suggestion
theorem ofFin_intCast (z : ℤ) : ofFin (z : Fin (2^w)) = ↑z := by
```

**Comment by tobiasgrosser** [comment]
I am closing this for now to not create unnecessary merge conflicts. Thank you all for the comments.
